US09120819B2
Stage D: Methyl 5-{[8-(Benzyloxy)-1-methoxy-2-methylindolizin-3-yl]carbonyl}-2-[(trifluoroacetyl)amino]benzoate
4.4 ml (54.3 mmol) of pyridine and then 15.0 g (48.4 mmol) of methyl 5-(chlorocarbonyl)-2-[(trifluoro-acetyl)amino]benzoate (described in Patent Application WO2003084956) are added, under argon, to the solution of 13.2 g (49.4 mmol) of 8-(benzyloxy)-1-methoxy-2-methylindolizine in 165 ml of dichloromethane. The reaction medium is stirred at ambient temperature for 3 hours. This is diluted with dichloromethane and this organic solution is washed with a saturated aqueous solution of sodium bicarbonate and then a saturated aqueous solution of sodium chloride, and dried over sodium sulphate. After concentration under reduced pressure, the solid obtained is taken up in ethanol, filtered and washed with ethanol, to give 16.2 g (61%) of an orange powder.

reactant | pyridine | 54.3 mmol, 4.4 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl 5-(chlorocarbonyl)-2-[(trifluoro-acetyl)amino]benzoate | 48.4 mmol, 15.0 g | ClC(=O)C=1C=CC(=C(C(=O)OC)C1)NC(C(F)(F)F)=O | C11H7ClF3NO4
reactant | 8-(benzyloxy)-1-methoxy-2-methylindolizine | 49.4 mmol, 13.2 g | C(C1=CC=CC=C1)OC1=CC=CN2C=C(C(=C12)OC)C | C17H17NO2
solvent | dichloromethane | 165 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | Methyl 5-{[8-(Benzyloxy)-1-methoxy-2-methylindolizin-3-yl]carbonyl}-2-[(trifluoroacetyl)amino]benzoate | 16.2 g, 61% | C(C1=CC=CC=C1)OC1=CC=CN2C(=C(C(=C12)OC)C)C(=O)C=1C=CC(=C(C(=O)OC)C1)NC(C(F)(F)F)=O | C28H23F3N2O6
